US08748434B2
b) 6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-ylamine
To a solution of 4-bromo-6-chloropyridazin-3-amine (2.5 g, 12.0 mmol, CAS RN 446273-59-2) in 1,2-dimethoxyethane (30 mL) was added 4-fluoro-2-methoxyphenylboronic acid (2.45 g, 14.4 mmol, CAS RN 179899-07-1) and 2M aqueous sodium carbonate solution (10 mL). The reaction mixture was stirred under argon atmosphere for 15 minutes. Pd(II)acetate (135 mg, 600 μmol) and triphenylphosphine (315 mg, 1.2 mmol) was added. The dark red reaction mixture was stirred at 90° C. for 8 hours and then poured on 10% aqueous sodium bicarbonate solution (200 mL) and ethyl acetate (200 mL), filtered over dicalite and the layers were separated. The aqueous layer was extracted a second time with ethyl acetate (200 mL). The organic layers were washed with 200 mL brine, dried over magnesium sulfate, filtered and concentrated under vacuum. The residue was purified by silica gel chromatography on a 120 g column using a MPLC system (CombiFlash Companion, Isco Inc.) eluting with a gradient of n-heptane:ethyl acetate (100:0 to 0:100). Light red solid (1.71 g, 56.2%). MS (ESI+): m/z=254.050 ([M+H]+).

reactant | 4-bromo-6-chloropyridazin-3-amine | 12.0 mmol, 2.5 g | BrC1=C(N=NC(=C1)Cl)N | C4H3BrClN3
reactant | 4-fluoro-2-methoxyphenylboronic acid | 14.4 mmol, 2.45 g | FC1=CC(=C(C=C1)B(O)O)OC | C7H8BFO3
reactant | sodium carbonate | 2M, 10 mL | C([O-])([O-])=O.[Na+].[Na+]
reactant | triphenylphosphine | 1.2 mmol, 315 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | sodium bicarbonate | 200 mL | C([O-])(O)=O.[Na+]
solvent | 1,2-dimethoxyethane | 30 mL | COCCOC | C4H10O2
solvent | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
product | 6-Chloro-4-(4-fluoro-2-methoxy-phenyl)-pyridazin-3-ylamine | ClC1=CC(=C(N=N1)N)C1=C(C=C(C=C1)F)OC | C11H9ClFN3O
